US06310070B1
An amidation reaction and post-treatment were carried out following the conditions of Example 17, using 2.00 g (8.54 mmol) of 4-amino-1-(2-fluorobenzyl)-5-imidazolecarboxamide prepared in the same manner as in Example 113 and 2-(N-t-butyloxycarbonyl-N-methylamino)acetic acid instead of 3-pyridylacetic acid hydrochloride to obtain 3.35 g of 4-(2-(N-t-butyloxycarbonyl-N-methylamino)acetylamino)-1-(2-fluorobenzyl)-5-imidazolecarboxamide (yield 97%).

reactant | 4-amino-1-(2-fluorobenzyl)-5-imidazolecarboxamide | 8.54 mmol, 2.00 g | NC=1N=CN(C1C(=O)N)CC1=C(C=CC=C1)F | C11H11FN4O
reactant | 2-(N-t-butyloxycarbonyl-N-methylamino)acetic acid | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
product | 4-(2-(N-t-butyloxycarbonyl-N-methylamino)acetylamino)-1-(2-fluorobenzyl)-5-imidazolecarboxamide | 3.35 g, yield 97% | C(C)(C)(C)OC(=O)N(C)CC(=O)NC=1N=CN(C1C(=O)N)CC1=C(C=CC=C1)F | C19H24FN5O4
